US08232278B2
Preparation of 2-methyl-4-chloro-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine
To a solution of 2-methyl-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)-one (416 mg, 1.4 mmol) in toluene (28 ml) was added 2,6-lutidine (490 μl, 4.2 mmol) and POCl3 (4.2 mmol, 385 μl). The mixture was refluxed under nitrogen atmosphere for 5 hours. The reaction mixture was cooled down, diluted with ethyl acetate (50 ml) and extracted with a saturated sodium bicarbonate solution. The combined organic layers were evaporated in vacuo and the residue was purified by silica gel column chromatography (the mobile phase being an ethyl acetate/hexane mixture in a ratio of 15:85), resulting in the pure title compound (330 mg, yield 75%) which was characterised by its mass spectrum as follows: MS (m/z): 316, 318 ([M+H]+, 100).

reactant | 2-methyl-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidin-4(3H)-one | 1.4 mmol, 416 mg | CC=1NC(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)=O | C16H15N3O3
reactant | 2,6-lutidine | 4.2 mmol, 490 μl | N1=C(C=CC=C1C)C | C7H9N
reactant | POCl3 | 4.2 mmol, 385 μl | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 28 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-methyl-4-chloro-6-(3,4-dimethoxyphenyl)-pyrido[3,2-d]pyrimidine | 330 mg, yield 75% | CC=1N=C(C2=C(N1)C=CC(=N2)C2=CC(=C(C=C2)OC)OC)Cl | C16H14ClN3O2
